US07429565B2
4-[6-Methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enal
[6-Methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-acetaldehyde (70 mg, 0.21 mmol) in toluene (2 mL) was heated at 100° C. with 2-(triphenyl-phosphanylidene)-propionaldehyde (72.9 mg, 0.23 mmol) overnight. A second portion of 2-(triphenyl-phosphanylidene)-propionaldehyde (33 mg, 0.11 mmol) was added and the reaction mixture was heated for an additional day. After concentration, the residue was purified by silica gel chromatography to provide 54 mg (83%) of the desired product as a pale yellow oil. 1H NMR (300 MHz, CDCl3) δ 0.00 (s, 9H), 1.10-1.21 (m, 2H), 1.87 (s, 3H), 2.16 (s, 3H), 3.67-3.76 (m, 2H), 3.74 (s, 3H), 4.27-4.39 (m, 2H), 5.11 (s, 2H), 6.40-6.48 (m, 1H), 9.2 (s, 1H) ppm.

reactant | [6-Methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-acetaldehyde | 0.21 mmol, 70 mg | COC1=C(C(=C2C(OCC2=C1C)=O)OCC[Si](C)(C)C)CC=O | C17H24O5Si
reactant | 2-(triphenyl-phosphanylidene)-propionaldehyde | 0.23 mmol, 72.9 mg | C1(=CC=CC=C1)P(=C(C=O)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
reactant | 2-(triphenyl-phosphanylidene)-propionaldehyde | 0.11 mmol, 33 mg | C1(=CC=CC=C1)P(=C(C=O)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
reactant | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[6-Methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enal | 54 mg, 83% | COC1=C(C(=C2C(OCC2=C1C)=O)OCC[Si](C)(C)C)CC=C(C=O)C | C20H28O5Si
